US04479942
Ethyl 1-(6amino-9H-purin-9-yl)-1,3-dideoxy-3-[N-tert-butoxycarbonyl-β-(2-chlorophenyl)-D,L-alanylamino]-β-D-ribofuranuronate (320 mg) was prepared by reacting ethyl 1-(6-amino-9H-purin-9-yl)-1,3-dideoxy-3-amino-β-D-ribofuranuronate 294 mg) prepared in Example 63 with N-tert-butoxycarbonyl-β-(2-chlorophenyl)-D,L-alanine (300 mg) according to a similar manner to that of Example 64, mp. 120°-130° C.

reactant | ethyl 1-(6-amino-9H-purin-9-yl)-1,3-dideoxy-3-amino-β-D-ribofuranuronate | 294 mg | NC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@@H]([C@H](O1)C(=O)OCC)N | C12H16N6O4
reactant | N-tert-butoxycarbonyl-β-(2-chlorophenyl)-D,L-alanine | 300 mg | C(C)(C)(C)OC(=O)NC(CC1=C(C=CC=C1)Cl)C(=O)O | C14H18ClNO4
product | Ethyl 1-(6amino-9H-purin-9-yl)-1,3-dideoxy-3-[N-tert-butoxycarbonyl-β-(2-chlorophenyl)-D,L-alanylamino]-β-D-ribofuranuronate | 320 mg | NC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@@H]([C@H](O1)C(=O)OCC)NC(C(NC(=O)OC(C)(C)C)CC1=C(C=CC=C1)Cl)=O | C26H32ClN7O7
